US07381719B2
Step 10: 6-(3-Phenethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)nicotinamide
Take up 6-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)nicotinamide (0.0500 g, 0.176 mmol) and K2CO3 (0.0488 g, 0.353 mmol) in DMF (1.0 mL). Add 2-bromoethylbenzene (0.0265 mL, 0.194 mmol) and heat to 70° C. overnight. Remove DMF as an azeotrope with xylenes. Purify by 5 g SCX column by washing with methanol and eluting with 2.0 M NH3 in methanol. Then purify by flash chromatography, eluting with 0-10% ethyl acetate and 5% (2.0 M NH3 in methanol) in dichloromethane to give the title compound: MS ES+ 388.1 (M+H)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=1.7 min, 100% purity.

reactant | 6-(2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)nicotinamide | 0.176 mmol, 0.0500 g | C1CNCCC2=C1C=CC(=C2)OC2=NC=C(C(=O)N)C=C2 | C16H17N3O2
reactant | K2CO3 | 0.353 mmol, 0.0488 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethylbenzene | 0.194 mmol, 0.0265 mL | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 6-(3-Phenethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy)nicotinamide | C(CC1=CC=CC=C1)N1CCC2=C(CC1)C=C(C=C2)OC2=NC=C(C(=O)N)C=C2 | C24H25N3O2
